US04735949
A mixture of 4.79 g (0.018 mole) of 4-phenYl-1-(phenylmethyl)-3-pyrrolidinemethanamine, 0.7 g of 20% palladium on carbon, and 250 ml of methanol was shaken in an atmosphere of hydrogen at about 50 psi and at room temperature for 24 hours. The catalyst was filtered and the filtrate evaporated under reduced pressure to give 2.74 g of 4-phenyl-3-pyrrolidinemethanamine.

reactant | 4-phenYl-1-(phenylmethyl)-3-pyrrolidinemethanamine | 0.018 mole, 4.79 g | C1(=CC=CC=C1)C1C(CN(C1)CC1=CC=CC=C1)CN | C18H22N2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.7 g | [Pd] | Pd
solvent | methanol | 250 ml | CO | CH4O
product | 4-phenyl-3-pyrrolidinemethanamine | 2.74 g | C1(=CC=CC=C1)C1C(CNC1)CN | C11H16N2
